US04380468
EXAMPLE 3 2-Phenyl phenylisonitrile
A reaction flask was charged with 17 g (0.1 mole) of 2-phenylaniline, 20 ml of methylene chloride, 15 ml of chloroform, 30 ml of 50% aqueous sodium hydroxide, and 200 mg of benzyltriethylammonium chloride. The procedure of Example 1 was followed, yielding 6 g of a thick oil, whose structure was confirmed by mass spectroscopy as that indicated by the above title.

reactant | 2-phenylaniline | 0.1 mole, 17 g | C1(=CC=CC=C1)C1=C(N)C=CC=C1 | C12H11N
reactant | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
reactant | sodium hydroxide | 30 ml | [OH-].[Na+]
catalyst | benzyltriethylammonium chloride | 200 mg | [Cl-].C(C1=CC=CC=C1)[N+](CC)(CC)CC
solvent | chloroform | 15 ml | C(Cl)(Cl)Cl | CHCl3
product | 2-Phenyl phenylisonitrile | 6 g | C1(=CC=CC=C1)C1=C(C=CC=C1)[N+]#[C-] | C13H9N
